US06770777B2
To 5 mL of ether was added 3.7 g (0.15 gram atom) of magnesium. To the mixture was added dropwise a solution of ethyl iodide (30 g, 0.19 mol) in ether (30 mL). The solution of ethylmagnesium iodide thus prepared was added dropwise to a solution of 2-adamantanone (20 g, 0.13 mol) in tetrahydrofuran (100 ml), and the mixture was stirred at room temperature overnight. GC analysis indicated that reduction products, i.e., 2-adamantanol and 2-ethyl-2-adamantanol were formed in 75% and 25%, respectively.

reactant | magnesium | 3.7 g | [Mg] | Mg
reactant | ethyl iodide | 0.19 mol, 30 g | C(C)I | C2H5I
reactant | ethylmagnesium iodide | C(C)[Mg]I
reactant | 2-adamantanone | 0.13 mol, 20 g | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
reactant | 2-adamantanol | C12C(C3CC(CC(C1)C3)C2)O | C10H16O
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ether | 5 mL | CCOCC | C4H10O
product | 2-ethyl-2-adamantanol | C(C)C1(C2CC3CC(CC1C3)C2)O | C12H20O
